### ISSUE TITLE
have? can't find `mul_left_cancel₀`

### ISSUE THREAD

**Issue by semorrison** [leanprover-community/mathlib4#6645]
```
import Mathlib

set_option autoImplicit true

lemma aa {M₀ : Type u} [CancelCommMonoidWithZero M₀] {a b c : M₀}
    (h : a ≠ 0) (hh : a * b = a * c) : b = c := by
  have? using hh
```
I would have hoped this puts `mul_left_cancel₀ h hh` in the context, but it doesn't.

* This is slow to test because `have?` doesn't yet have a global cache like its siblings `exact?` and `rw?`
* It successfully selects the lemma
* But fails to fill in its arguments using `solve_by_elim`, apparently because the "work on independent goals first" mode is borked. (And maybe shouldn't even be used here.)

**Comment by YaelDillies** [comment]
It works now 🎉
```
import Mathlib.Algebra.GroupWithZero.Defs
import Mathlib.Tactic.Propose

set_option autoImplicit true

lemma aa {M₀ : Type u} [CancelCommMonoidWithZero M₀] {a b c : M₀}
    (h : a ≠ 0) (hh : a * b = a * c) : b = c := by
  have? using hh -- Try this: have : b = c := mul_left_cancel₀ h hh
```
